US05306821
Cerium chloride heptahydrate (15.0 g, 40 mmol) was dried and stirred with 80 mL of dry tetrahydrofuran as described in Example 1. To this was added by cannulation below -50° a solution of phenyllithium prepared by addition of 16 mL of 2.5M n-butyllithium in hexanes (40 mmol) to 6.28 g (40 mmol) of bromobenzene in 15 mL of tetrahydrofuran below -40°. The mixture was stirred in a dry ice-acetone bath for 30 minutes, and 1.34 g (13 mmol) of benzonitrile in 2 mL of tetrahydrofuran were added. The bath was removed and the mixture was stirred for 2 hours. Isolation as described in Example 1 gave 3.30 g (98%) of triphenylmethylamine, identical by infrared, 1H and 13C NMR spectroscopy with an authentic sample.

reactant | Cerium chloride heptahydrate | 40 mmol, 15.0 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | n-butyllithium | 2.5M, 16 mL | C(CCC)[Li]
reactant | bromobenzene | 40 mmol, 6.28 g | BrC1=CC=CC=C1 | C6H5Br
reactant | benzonitrile | 13 mmol, 1.34 g | C(C1=CC=CC=C1)#N | C7H5N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | triphenylmethylamine | 3.30 g, 98% | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
